US07087626B2
4-(2-(2-Pyridyl)ethynyl)quinoline
A mixture of triphenyphosphine oxide (5.56 g, 10 mmol) in 1,2-dichloroethane (30 mL) is cooled in an ice bath. Trifluoromethanesulfonic anhydride (1.57 mL, 10 mmol) is added dropwise over 15 min. To this mixture is added a solution of 1-(2-pyridyl)-2-(4-quinolyl)ethan-1-one (2.5 g, 10 mmol) in 1,2-dichloroethane (10 mL) and triethylamine (2.84 mL, 20 mmol). The ice bath is removed and the mixture heated at reflux for 16 h. The mixture is diluted with dichloromethane (100 mL) and washed with water (3×100 mL), dried (magnesium sulfate), filtered, concentrated in vacuo, and chromatographed on SiO2 (0 to 100% hexane in ethyl acetate) to yield 1 g of title compound as an oil.

reactant | triphenyphosphine oxide | 10 mmol, 5.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | Trifluoromethanesulfonic anhydride | 10 mmol, 1.57 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-(2-pyridyl)-2-(4-quinolyl)ethan-1-one | 10 mmol, 2.5 g | N1=C(C=CC=C1)C(CC1=CC=NC2=CC=CC=C12)=O | C16H12N2O
reactant | triethylamine | 20 mmol, 2.84 mL | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 4-(2-(2-Pyridyl)ethynyl)quinoline | 1 g | N1=C(C=CC=C1)C#CC1=CC=NC2=CC=CC=C12 | C16H10N2
